US04238494
A solution of sodium methoxide (sodium (1.9g, 0.084 mol) dissolved in methanol (100 ml)) and a solution of 1-amino-3-phenylpropan-2-one hydrochloride (7.9g, 0.042 mol) in methanol (100 ml) were simultaneously added dropwise, to a stirred solution of 1-nitro-2-methylthio-2-methylsulphinyl-ethylene (7.7g, 0.042 mol) in methanol. The temperature was maintained at about 60° during the addition, which took 25 minutes. The solvent was then removed in vacuo, and the residual dark red oil was chromatographed on a silica gel column. Elution and recrystallisation with petroleum ether/ethyl acetate (7:3) gave 2-methylthio-3-nitro-4-benzylpyrrole (2.95g, 28.5%) m.p. 190-192.5°.

reactant | sodium methoxide | 0.084 mol, 100 ml, 1.9g | C[O-].[Na+]
reactant | 1-amino-3-phenylpropan-2-one hydrochloride | 0.042 mol, 7.9g | Cl.NCC(CC1=CC=CC=C1)=O
reactant | 1-nitro-2-methylthio-2-methylsulphinyl-ethylene | 0.042 mol, 7.7g | [N+](=O)([O-])C=C(S(=O)C)SC | C4H7NO3S2
solvent | methanol | 100 ml | CO | CH4O
product | 2-methylthio-3-nitro-4-benzylpyrrole | 2.95g, 28.5% | CSC=1NC=C(C1[N+](=O)[O-])CC1=CC=CC=C1 | C12H12N2O2S
